US04859684
(a-2) A cooled (0° C.) solution of 10 parts of ethyl 2-methyl-1H-benzimidazole-4-carboxylate in 45 parts of tetrahydrofuran was added dropwise to a suspension of 4 parts of lithium tetrahydroaluminate in 45 parts of tetrahydrofuran. Upon complete addition, the temperature was allowed to reach room temperature. After the addition of ethyl acetate and water, the reaction mixture was filtered over diatomaceous earth. The filtrate was evaporated, yielding 6.3 parts (79.4%) of 2-methyl-1H-benzimidazole-4-methanol as a residue (int. 66).

reactant | ethyl 2-methyl-1H-benzimidazole-4-carboxylate | CC1=NC2=C(N1)C=CC=C2C(=O)OCC | C11H12N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium tetrahydroaluminate | [AlH4-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-methyl-1H-benzimidazole-4-methanol | 79.4% | CC1=NC2=C(N1)C=CC=C2CO | C9H10N2O
